US07687502B2
(6-Isopropoxy-quinazolin-4-yl)-pyrazin-2-yl-amine
The compound of Example 23 was manufactured by the same method as in Example 22, by a similar method thereto or by a combination of such a method with a conventional method using 4-chloro-6-hydroxy-quinazoline, 2-propanol and 2-aminopyrazine.

reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
reactant | 2-aminopyrazine | NC1=NC=CN=C1 | C4H5N3
reactant | 2-propanol | CC(C)O | C3H8O
product | (6-Isopropoxy-quinazolin-4-yl)-pyrazin-2-yl-amine | C(C)(C)OC=1C=C2C(=NC=NC2=CC1)NC1=NC=CN=C1 | C15H15N5O
